US07728018B2
2,2-Bis-(2,2,2-trifluoro-ethyl)-malononitrile
Malononitril (20.15 mmol) and 1-iodo-3,3,3-trifluoropropane (42.65 mmol) were dissolved in 30 ml dry THF, and the mixture was cooled with an ice/salt bath. 1.61 g NaH (40.3 mmol) was added portionwise, keeping the temperature below 5° C. The reaction mixture was stirred at room temperature for 2 hours and evaporated under reduced pressure. The crude material was purified by flash chromatography eluting with DCM, yielding 0.76 grams of an oil. 1H NMR (400 MHz, CDCl3) δ 2.62-2.49 (m, 4H), 2.31-2.24 (m, 4H)

reactant | Malononitril | 20.15 mmol | C(CC#N)#N | C3H2N2
reactant | 1-iodo-3,3,3-trifluoropropane | 42.65 mmol | ICCC(F)(F)F | C3H4F3I
reactant | NaH | 40.3 mmol, 1.61 g | [H-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2,2-Bis-(2,2,2-trifluoro-ethyl)-malononitrile | 0.76 grams | FC(CC(C#N)(C#N)CC(F)(F)F)(F)F | C7H4F6N2
